US07582633B2
Step 2: 5-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)-2-{4-[2-(trifluoromethyl)phenoxy]piperidin-1-yl}pyrimidine
Into a flame-dried 250-mL round-bottom flask equipped with a magnetic stirbar and under nitrogen was added bis(pinacolato)diboron (1.89 g, 7.5 mmol), 5-bromo-2-{4-[2-(trifluoromethyl)phenoxy]piperidin-1-yl}pyrimidine (2.0 g, 5.0 mmol), PdCl2(dppf) (0.20 g, 0.25 mmol) and potassium acetate (1.95 g, 20.0 mmol). The flask containing the solids was evacuated under vacuum and backfilled with nitrogen (repeated 3 times). DMF (50 mL) was added to the flask and the suspension degassed with nitrogen for 20 min, before being heating to 85° C. for 1 h. The dark black reaction mixture was cooled to room temperature, and the DMF was removed under rotary evaporation under reduced pressure. The solids were suspended in a 1:1 mixture of diethyl ether/ethyl acetate. The mixture was cooled, poured into a 250 mL separatory funnel containing water (150 mL) and the mixture was extracted. The combined organic layers were washed with brine and dried over MgSO4. The solution was filtered through a short plug of silica gel, washing with 1:1 diethyl ether: ethyl acetate and the solvent was evaporated under reduced pressure. The crude solid was resuspended in heptanes (50 mL), and sonicated for 5 min. The suspension was filtered through a plug of celite on a sintered glass funnel. The resulting filtrate was cooled to −78° C. for 15 min. The resulting suspension was filtered through Whatman #1 filter paper on a Hirsch funnel, washing with cold hexanes and the resulting light brown solid was collected. MS (ESI, Q+) m/z 450 (M+1).

reactant | bis(pinacolato)diboron | 7.5 mmol, 1.89 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | 5-bromo-2-{4-[2-(trifluoromethyl)phenoxy]piperidin-1-yl}pyrimidine | 5.0 mmol, 2.0 g | BrC=1C=NC(=NC1)N1CCC(CC1)OC1=C(C=CC=C1)C(F)(F)F | C16H15BrF3N3O
reactant | potassium acetate | 20.0 mmol, 1.95 g | C(C)(=O)[O-].[K+]
catalyst | PdCl2(dppf) | 0.25 mmol, 0.20 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 5-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)-2-{4-[2-(trifluoromethyl)phenoxy]piperidin-1-yl}pyrimidine | CC1(OB(OC1(C)C)C=1C=NC(=NC1)N1CCC(CC1)OC1=C(C=CC=C1)C(F)(F)F)C | C22H27BF3N3O3
